US08022206B2
[7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)-ethoxy]-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-furo[3,2-c]pyridin-6-yl]-methylamine
A mixture of 7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)-furo[3,2-c]pyridin-6-ylamine (10.0 mg, 0.0237 mmol), methyl iodide (6.72 mg, 0.0474 mmol), DIPEA (0.02 mL, 0.1 mmol), and DMF (0.5 mL) was stirred at rt for 20 min. The solution was used directly for HPLC purification. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a brown solid. 1H NMR (CDCl3, 400 MHz): δ=1.88 (d, J=6.6 Hz, 3H), 2.90 (d, J=6.3 Hz, 2H), 3.50 (br, s, 6H), 3.99 (br, s, 2H), 4.31 (br, s, 2H), 4.87 (br, s, 1H), 6.17 (br, s, 1H), 6.51 (d, J=6.8 Hz, 1H), 7.06 (t, J=8.5 Hz, 1H), 7.28-7.34 (m, 1H), 7.51 (s, 1H), 8.19 (br, s, 1H). MS (ES+): m/z 450.05 [MH+]. HPLC: tR=2.55 min (ZQ3, polar—5 min).

reactant | 7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-3-(1,2,3,6-tetrahydropyridin-4-yl)-furo[3,2-c]pyridin-6-ylamine | 0.0237 mmol, 10.0 mg | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C(=CO2)C=2CCNCC2 | C20H18Cl2FN3O2
reactant | methyl iodide | 0.0474 mmol, 6.72 mg | CI | CH3I
reactant | DIPEA | 0.1 mmol, 0.02 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | [7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)-ethoxy]-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-furo[3,2-c]pyridin-6-yl]-methylamine | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1NC)C(=CO2)C=2CCN(CC2)C | C22H22Cl2FN3O2
